US06316605B1
Orcinol (5-resorcinol) was aminized by di-n-hexylamine, so as to obtain 1-di-n-hexylamino-3-methyl-5-hydroxybenzene. The hydroxy group thereof was etherized with methyl iodide, and then nitrosoized so as to obtain 1-di-n-hexylamino-3-methyl-4-nitroso-5-methoxybenzene.

reactant | Orcinol | C1(=CC(O)=CC(C)=C1)O | C7H8O2
reactant | di-n-hexylamine | C(CCCCC)NCCCCCC | C12H27N
product | 1-di-n-hexylamino-3-methyl-5-hydroxybenzene | C(CCCCC)N(C1=CC(=CC(=C1)O)C)CCCCCC | C19H33NO
